US08283354B2
Bromine (35 mL, 660 mmol) was added dropwise to a suspension of isatoic anhydride (100 g, 610 mmol) in 1.6 L water at 50° C. This temperature was maintained for an additional 2 hours. After cooling the solution to room temperature, the solid was filtered and washed twice with water and twice with acetone, yielding 125.6 g (85%) 6-bromo-1H-benzo[d][1,3]oxazine-2,4-dione as a pink solid.

reactant | Bromine | 660 mmol, 35 mL | BrBr | Br2
reactant | isatoic anhydride | 610 mmol, 100 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | water | 1.6 L | O | H2O
product | 6-bromo-1H-benzo[d][1,3]oxazine-2,4-dione | 125.6 g, 85% | BrC1=CC2=C(NC(OC2=O)=O)C=C1 | C8H4BrNO3
